US06232320B1
Methyl 4-[4-(1H-imidazol-1-yl)phenoxy]thieno[2,3-c]pyridine-2-carboxylate
Example 17A (0.88 g, 5 mmol) in THF (15 mL) and DMF (5 mL) was treated with 4-(1-imidazolyl)phenol and potassium t-butoxide (1 N in THF, 5.0 mL, 5 mmol) at 70° C. for 4 hours, then cooled to 0° C., added methyl thioglycolate (0.4 mL, 5 mmol) and cesium carbonate (1.62 g, 5 mmol) then refluxed for 1 hour. The reaction was poured into water, diluted with brine and extracted with ethyl acetate. The ethyl acetate was then washed with 1 N NaOH (2×20 mL), then brine (3×20 mL), dried (MgSO4) to give the titled compound.

reactant | 4-(1-imidazolyl)phenol | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | potassium t-butoxide | 5 mmol, 1 N, 5.0 mL | CC(C)([O-])C.[K+]
reactant | methyl thioglycolate | 5 mmol, 0.4 mL | C(CS)(=O)OC | C3H6O2S
reactant | cesium carbonate | 5 mmol, 1.62 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | water | O | H2O
product | Methyl 4-[4-(1H-imidazol-1-yl)phenoxy]thieno[2,3-c]pyridine-2-carboxylate | N1(C=NC=C1)C1=CC=C(OC2=C3C(=CN=C2)SC(=C3)C(=O)OC)C=C1 | C18H13N3O3S
